US07851473B2
(2) N-(1,3-Dimethyl-1H-pyrazol-5-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl (1,3-dimethyl-1H-pyrazol-5-yl)carbamate (256 mg, 0.893 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and diisopropylethylamine (0.156 ml, 0.893 mmol) in dimethylsulfoxide (2.7 ml) was stirred at 70° C. for 15 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 146 mg (46.9%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl (1,3-dimethyl-1H-pyrazol-5-yl)carbamate | 0.893 mmol, 256 mg | CN1N=C(C=C1NC(OCC(Cl)(Cl)Cl)=O)C | C8H10Cl3N3O2
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.893 mmol, 0.156 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.7 ml | CS(=O)C | C2H6OS
product | N-(1,3-Dimethyl-1H-pyrazol-5-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 146 mg, 46.9% | CN1N=C(C=C1NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1)C | C18H21N7OS
